US06255315B1
Step A: 8-(2-Pyridyl)-1,4-dioxaspiro[4,5]decan-8-ol
To a solution of 2-bromo-pyridine (10 g, 63.3 mmol) in tetrahydrofuran (200 mL) at −78° C. under an argon atmosphere was added a solution of n-butyllithium (26 mL of 2.5N solution, 65 mmol). The solution was stirred at −78° C. for 10 minutes and then a solution of cyclohexanedione monoethylene ketal (10 g, 64 mmol) in tetrahydrofuran(50 mL) was added. The reaction was allowed to warm to room temperature and poured into a saturated solution of sodium bicarbonate (mL) the mixture was extracted with ethyl acetate. The combined ethyl acetate fractions were dried over anhydrous sodium sulfate, filtered, and concentrated at reduced pressure. The residue was chromatographed over silica gel eluting with 25% to 50% ethyl acetate/hexane to give the product.

reactant | 2-bromo-pyridine | 63.3 mmol, 10 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyllithium | 65 mmol, 2.5N, 26 mL | C(CCC)[Li]
reactant | cyclohexanedione monoethylene ketal | 64 mmol, 10 g | C1COC2(C(CCCC2)=O)O1 | C8H12O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 8-(2-Pyridyl)-1,4-dioxaspiro[4,5]decan-8-ol | N1=C(C=CC=C1)C1(CCC2(OCCO2)CC1)O | C13H17NO3
